US05246957
A mixture of 1-(4-fluorophenyl)hydrazine hydrochloride (1.03 g), ethyl 4-oxo-hexanoate (1.0 g), 2-propanol (25 ml) and H2SO4 is refluxed under nitrogen for 9 hours. After cooling the mixture is poured into a aqueous solution of NaHCO3, extracted with AcOEt and evaporated to dryness to yield 1.45 g of isopropyl 5-fluoro-3-methyl-1H-indole-2-propanoate.

reactant | 1-(4-fluorophenyl)hydrazine hydrochloride | 1.03 g | Cl.FC1=CC=C(C=C1)NN
reactant | ethyl 4-oxo-hexanoate | 1.0 g | O=C(CCC(=O)OCC)CC | C8H14O3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 2-propanol | 25 ml | CC(C)O | C3H8O
product | isopropyl 5-fluoro-3-methyl-1H-indole-2-propanoate | 1.45 g | FC=1C=C2C(=C(NC2=CC1)CCC(=O)OC(C)C)C | C15H18FNO2
